US08791267B2
Synthesis of Carbonic acid 3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl ester methyl ester (I-145).
A solution of (3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-methanol (I-32, 3.00 g, 11.3 mmol) in pyridine (2.31 g, 29.3 mmol) and tetrahydrofuran (40 mL) was cooled to 0° C. in an ice water bath. The reaction vessel was purged with nitrogen and methyl chloroformate (2.34 g, 24.8 mmol) was added. The ice bath was removed and the reaction was stirred at room temperature overnight. The white suspension was adjusted to pH 2 by addition of 1 N aqueous hydrochloric acid (˜25 mL) and the yellow biphasic solution was diluted with dichloromethane (200 mL) and water (150 mL). The layers were separated, and the aqueous layer was extracted with dichloromethane (2×100 mL). The dichloromethane extracts were combined, washed with water (2×200 mL) and brine (200 mL), dried over sodium sulfate, filtered, and the solvent removed under vacuum to give I-145 (3.84 g, quantitative yield).

reactant | (3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-methanol | 11.3 mmol, 3.00 g | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CO)F | C14H12ClFO2
reactant | pyridine | 29.3 mmol, 2.31 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 24.8 mmol, 2.34 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | Carbonic acid 3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl ester methyl ester | quantitative yield | COC(OCC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F)=O | C16H14ClFO4
